US09108934B2
(2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-[(5-hydroxy-1-methyl-1H-pyrazole-3-carbonyl)amino]pentanoic Acid Ethyl Ester
5-Hydroxy-1-methyl-1h-pyrazole-3-carboxylic acid (122 mg, 862 μmol) and HATU (361 mg, 949 μmol) were combined in DMF (1.0 mL, 13 mmol) and stirred for 10 minutes. (2R,4R)-4-amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic acid ethyl ester (30.0 mg, 86 μmol) and DIPEA (165 μL, 949 μmol) were added, and the resulting mixture was stirred at room temperature overnight. The mixture was then concentrated under reduced pressure and the residue was dissolved in 50% AcOH-water (1.5 mL), filtered, purified by reverse phase preparative HPLC, and lyophilized to yield the title compound (11.1 mg). MS m/z [M+H]+ calc'd for C24H26ClN3O5, 472.16. found 472.2.

reactant | 5-Hydroxy-1-methyl-1h-pyrazole-3-carboxylic acid | 862 μmol, 122 mg | OC1=CC(=NN1C)C(=O)O | C5H6N2O3
reactant | HATU | 949 μmol, 361 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 13 mmol, 1.0 mL | CN(C)C=O | C3H7NO
reactant | (2R,4R)-4-amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic acid ethyl ester | 86 μmol, 30.0 mg | C(C)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)N)O)=O | C19H22ClNO3
reactant | DIPEA | 949 μmol, 165 μL | CCN(C(C)C)C(C)C | C8H19N
product | (2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-[(5-hydroxy-1-methyl-1H-pyrazole-3-carbonyl)amino]pentanoic Acid Ethyl Ester | 11.1 mg | C(C)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)NC(=O)C1=NN(C(=C1)O)C)O)=O | C24H26ClN3O5
